US06387938B1
Synthesis of 2-bromo-4-methoxy-6-nitroaniline
To a solution of 4-methoxy-2-nitroaniline (35 g) in dichloromethane (350 mL) was subsequently added dropwise bromine (12.9 mL) at −20° C. After stirring for 30 minutes at the same temperature, this was poured into ice water, adjusted to pH 7 to 8 with saturated sodium bicarbonate aqueous solution and then extracted with dichloromethane. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate). After concentration of the desired fraction, the resulting residue was crystallized from hexane and ethyl acetate and then collected by filtration to obtain the title compound as reddish orange crystals (29.6 g).

reactant | 4-methoxy-2-nitroaniline | 35 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | bromine | 12.9 mL | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 2-bromo-4-methoxy-6-nitroaniline | 29.6 g | BrC1=C(N)C(=CC(=C1)OC)[N+](=O)[O-] | C7H7BrN2O3
